US06919331B2
To a solution of 1-[5-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one (155 mg, 0.38 mmol) and TEA (130 mg, 1.14 mmol) in DCM (5 mL) was added methanesulfonyl chloride (87 mg, 0.76 mmol) at 0° C. The final solution was stirred at ambient temperature for 12 h then washed with sat. NaHCO3 and brine. The organic layer was dried with MgSO4 and evaporated. The residue was purified by flash chromatography (hexanes:EtOAc 2:1 to 1:1) to give 62 mg (33%) of methanesulfonic acid 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl ester as a white solid.

reactant | 1-[5-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | 0.38 mmol, 155 mg | OCC1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1 | C24H30N4O2
reactant | methanesulfonyl chloride | 0.76 mmol, 87 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl ester | 62 mg, 33% | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)COS(=O)(=O)C)=O | C25H32N4O4S
